US05093529
According to the process disclosed in EP-A2-303,291, 2-chloro-4,5-difluorobenzoic acid is prepared by acylating 1-chloro-3,4-difluorobenzene to give 2-chloro-4,5-difluoroacetophenone with a yield of 82% of theory and then oxidizing with sodium hypochlorite to 2-chloro-4,5-difluorobenzoic acid in a yield of 85.1% of theory. The total yield of this process thus only amounts to about 70% of theory, relative to the 1-chloro-3,4-difluorobenzene as the starting material. It is further a disadvantage of this process that, according to the illustrative example, the acylation must be carried out at a temperature of 120° C.

reactant | 2-chloro-4,5-difluorobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3ClF2O2
reactant | 1-chloro-3,4-difluorobenzene | ClC1=CC(=C(C=C1)F)F | C6H3ClF2
product | 2-chloro-4,5-difluoroacetophenone | yield of 82% | CC(=O)C1=CC(=C(C=C1Cl)F)F | C8H5ClF2O
